US06323223B1
Platinum oxide (0.3 g) was added to a solution of 1-(tert-butoxycarbonyl)-4-(3,4-dichlorobenzylidene)piperidine (29 g, 84.7 mmol) in ethyl acetate (500 ml) and the mixture was stirred under a hydrogen atmosphere overnight. The reaction mixture was filtered through celite and the filtrate was concentrated to give 1-(tert-butoxycarbonyl)4-(3,4-dichlorobenzyl)piperidine (30 g) as a tan oil.

reactant | 1-(tert-butoxycarbonyl)-4-(3,4-dichlorobenzylidene)piperidine | 84.7 mmol, 29 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=CC1=CC(=C(C=C1)Cl)Cl | C17H21Cl2NO2
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
catalyst | Platinum oxide | 0.3 g | [Pt]=O
product | 1-(tert-butoxycarbonyl)4-(3,4-dichlorobenzyl)piperidine | 30 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CC1=CC(=C(C=C1)Cl)Cl | C17H23Cl2NO2
